US07977344B2
N2-Butyl-8-(methyloxy)-9-[4-(tetrahydro-2-furanyl)butyl]-9H-purine-2,6-diamine
2-(Butyloxy)-8-(methyloxy)-1H-purin-6-amine trifluoroacetate (120 mg, 0.342 mmol) was heated with potassium carbonate (189 mg, 1.366 mmol) in dry DMF (5 ml) at 60° C. for 1 hour and then cooled to room temperature. 2-(4-Bromobutyl)tetrahydrofuran (82 mg, 0.394 mmol) was added and the reaction mixture heated at 50° C. under nitrogen for 16 hours and then partitioned between water (2 ml) and DCM (5 ml). The aqueous layer was further extracted with DCM (2×5 ml) and the combined organic layers were dried by passage through a hydrophobic frit and evaporated to dryness using a nitrogen blowdown unit. The residue was dissolved in methanol (0.6 ml) and purified by mass directed autopreparation. Product containing fractions were combined and evaporated to dryness in a nitrogen blowdown apparatus to give the title compound (76 mg).

reactant | 2-(Butyloxy)-8-(methyloxy)-1H-purin-6-amine trifluoroacetate | 0.342 mmol, 120 mg | FC(C(=O)O)(F)F.C(CCC)OC=1NC(=C2N=C(N=C2N1)OC)N
reactant | potassium carbonate | 1.366 mmol, 189 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(4-Bromobutyl)tetrahydrofuran | 0.394 mmol, 82 mg | BrCCCCC1OCCC1 | C8H15BrO
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N2-Butyl-8-(methyloxy)-9-[4-(tetrahydro-2-furanyl)butyl]-9H-purine-2,6-diamine | 76 mg | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CCCCC1OCCC1)OC)N | C18H30N6O2
